US06995175B2
4-(4,6-Dimethoxy-1,3,5-triazine-2-yl)-4-methylmorpholinium chloride (177 mg) is added to a solution of 48 mg (0.29 mmol) of terephthalic acid and 128 mg (0.64 mmol) of 4-dimethylamino-6-aminoquinaldine in 6 mL of dimethylformamide, at a temperature in the region of 20° C. The mixture obtained is stirred at a temperature in the region of 20° C. for about 12 hours. The reaction mixture is successively taken up in 2 mL of acetonitrile and 2 mL of diisopropyl ether, and the precipitate thus obtained is slowly filtered on a 6 mL BOND-ELUT cartridge filled with sintered material. The insoluble matter obtained is washed with diisopropyl ether and then dried under argon. 154 mg of N,N′-bis(4-dimethylamino-2-methylquinolin-6-yl)-terephthalamide are thus obtained in the form of a beige powder of whose characteristics are the following:

reactant | 4-(4,6-Dimethoxy-1,3,5-triazine-2-yl)-4-methylmorpholinium chloride | 177 mg | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | terephthalic acid | 0.29 mmol, 48 mg | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | 4-dimethylamino-6-aminoquinaldine | 0.64 mmol, 128 mg | CN(C1=CC(=NC2=CC=C(C=C12)N)C)C | C12H15N3
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | diisopropyl ether | 2 mL | C(C)(C)OC(C)C | C6H14O
product | N,N′-bis(4-dimethylamino-2-methylquinolin-6-yl)-terephthalamide | 154 mg | CN(C1=CC(=NC2=CC=C(C=C12)NC(C1=CC=C(C(=O)NC=2C=C3C(=CC(=NC3=CC2)C)N(C)C)C=C1)=O)C)C | C32H32N6O2
